US07713971B2
d) Ethyl 2-(3-bromo-phenoxy)-2-methyl-propionate (10d)
25 g (144.5 mmol) of 3-bromophenol are placed in the presence of K2CO3 (21 g, 152 mmol) in 75 ml of ethyl 2-bromoisobutyrate and heated to reflux for 7 h. After elimination of K2CO3 by filtration, the reaction medium is dry concentrated. After purification by flash chromatography on silica (petroleum ether:AcOEt 90:10), 37 g of intermediate 10d are collected in the form of clear oil (yield=89%). TLC silica gel 60 F 254 Merck, petroleum ether:AcOEt 90:10, Rf=0.40.

reactant | 3-bromophenol | 144.5 mmol, 25 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | K2CO3 | 152 mmol, 21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoisobutyrate | 75 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-(3-bromo-phenoxy)-2-methyl-propionate | yield=89% | BrC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C12H15BrO3
